* C:\Users\beia\Documents\GitHub\Bird_Detector\LTSpice_simulations\power_switching.asc
M1 N002 N005 BATT_in BATT_in PMOS
V§Solar N001 0 PWL(0 6 0.1 15 0.2 15 0.3 0)
VBus N005 0 5 Rser=0.01
M2 N002 N007 N001 N001 PMOS
R1 N007 0 1k
R2 N005 0 100k
D1 N005 BATT_in D
R3 BATT_in 0 10
V§Li_ion_cells BATT_out 0 4.2 Rser=0.075
M3 N003 N005 N004 N004 PMOS
M4 N003 N006 BATT_out BATT_out PMOS
V§BMS_IC N006 0 0
R4 N006 0 100k
R5 N005 0 100k
D2 N005 N004 D
R6 N004 0 10
.model D D
.lib C:\Users\tehnic\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tehnic\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.5 startup
.backanno
.end
